US07691882B2
2-Chloromethyl-5-methyl-pyridine
A mixed solution of (5-methyl-pyridine-2-yl)-methanol (500 mg, 4.1 mmol) described in Manufacturing Example 11-1-1, thionyl chloride (0.59 mL, 8.1 mmol) and methylene chloride (10 mL) was stirred for 5 minutes under reflux. The reaction solution was cooled to room temperature and concentrated under a reduced pressure. The resulting residue was partitioned into diethyl ether and saturated sodium bicarbonate solution. The organic layer was separated and passed through a glass filter lined with silica gel (eluted with ethyl acetate). The eluate was concentrated to obtain the title compound (440 mg, 76%) as a crude product. The resulting compound was used in the following reaction without further purification.

reactant | (5-methyl-pyridine-2-yl)-methanol | 4.1 mmol, 500 mg | CC=1C=CC(=NC1)CO | C7H9NO
reactant | thionyl chloride | 8.1 mmol, 0.59 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloromethyl-5-methyl-pyridine | 440 mg, 76% | ClCC1=NC=C(C=C1)C | C7H8ClN
